US09359375B2
A mixture of (R)-2-(5-bromo-4-cyano-2-fluorophenylamino)-3-methoxypropanamide (52 mg, 0.164 mmol), 5-amino-3-methylisothiazole hydrochloride (40 mg, 0.265 mmol), K2CO3 (110 mg, 0.797 mmol), BINAP (30 mg, 0.048 mmol) and Pd(OAc)2 (25 mg, 0.111 mmol) in dioxane (2 mL) was degassed with argon, then was stirred at 120 C for 18 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to give (R)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-3-methoxypropanamide (16 mg).

reactant | (R)-2-(5-bromo-4-cyano-2-fluorophenylamino)-3-methoxypropanamide | 0.164 mmol, 52 mg | BrC=1C(=CC(=C(C1)N[C@@H](C(=O)N)COC)F)C#N | C11H11BrFN3O2
reactant | 5-amino-3-methylisothiazole hydrochloride | 0.265 mmol, 40 mg | Cl.NC1=CC(=NS1)C
reactant | K2CO3 | 0.797 mmol, 110 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BINAP | 0.048 mmol, 30 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.111 mmol, 25 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-3-methoxypropanamide | 16 mg | C(#N)C1=CC(=C(C=C1NC1=CC(=NS1)C)N[C@@H](C(=O)N)COC)F | C15H16FN5O2S
